US05102890
The procedure is as in Example 7, but starting with 5-hydroxy-6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine (6.3 g) in methylene chloride (80 cc), triethylamine (5.05 g), methacryloyl chloride (3.14 g) and 4-dimethylaminopyridine (50 mg). The residue obtained is purified by recrystallization in acetonitrile followed by chromatography on neutral alumina (50 g) contained in a column 1.5 cm in diameter, eluting with methylene chloride and collecting 15-cc fractions. Fractions 12 to 34 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. 6-(7-Chloro-1,8-naphthyridin-2yl)-7-oxo-6,7-dihydro-5H-pyrrolo [3,4-b]-pyrazin-5yl methacrylate (1.4 g), m.p. 255° C., is thereby obtained.

reactant | 5-hydroxy-6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine | 6.3 g | OC1N(C(C2=NC=CN=C21)=O)C2=NC1=NC(=CC=C1C=C2)Cl | C14H8ClN5O2
reactant | triethylamine | 5.05 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 3.14 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methylene chloride | 80 cc | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-(7-Chloro-1,8-naphthyridin-2yl)-7-oxo-6,7-dihydro-5H-pyrrolo [3,4-b]-pyrazin-5yl methacrylate | 1.4 g | C(C(=C)C)(=O)OC1N(C(C2=NC=CN=C21)=O)C2=NC1=NC(=CC=C1C=C2)Cl | C18H12ClN5O3
